US04264614
A. 3-(3-Isothiocyanatopropoxy)-N,N-dimethylbenzenemethanamine.
A solution of carbon disulphide (8.36 g) in acetone (16 ml) was added dropwise to a stirred solution of 3-(3-aminopropoxy)-N,N-dimethylbenzenemethanamine (20.8 g) in acetone (60 ml) at -10° to 0° during 15 minutes. A solution of mercuric chloride (27.2 g) in acetone (40 ml) was added slowly at -15° and after the addition the suspension was warmed to 0° and triethylamine (23 g) added dropwise. The suspension was refluxed for 45 minutes then filtered and evaporated to give an oil which was chromatographed (alumina,grade 3/ether). The appropriate eluate was evaporated to a yellow oil consisting of the title compound (8.7 g).

reactant | carbon disulphide | 8.36 g | C(=S)=S | CS2
reactant | 3-(3-aminopropoxy)-N,N-dimethylbenzenemethanamine | 20.8 g | NCCCOC=1C=C(C=CC1)CN(C)C | C12H20N2O
reactant | triethylamine | 23 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 16 ml | CC(=O)C | C3H6O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 3-(3-Isothiocyanatopropoxy)-N,N-dimethylbenzenemethanamine | N(=C=S)CCCOC=1C=C(C=CC1)CN(C)C | C13H18N2OS
